US04859229
using 3-(4-chloro-2-fluoro-5-hydroxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione and 3-[piperidino(carbonyl)]-propionic acid with N,N'-dicyclohexylcarbodiimide and 4-dimethylaminopyridine as the catalyst in methylene chloride there is obtained 2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1(2H)-pyrimidinyl]-4 -fluorophenyl 3-[piperidino(carbonyl)]propionate. 1H-NMR (CDC3, 400 MHz): 7.35 ppm (d,1H), 7.20 ppm (d,1H), 6.36 ppm (s,1H), 3.50-3.60 ppm (m,5H), 3.42 ppm (t,2H). 2.94 ppm (t,2H), 2.74 ppm (t,2H), 1.49°-1.70 ppm (m.6H);

reactant | 3-(4-chloro-2-fluoro-5-hydroxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | ClC1=CC(=C(C=C1O)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C12H7ClF4N2O3
reactant | 3-[piperidino(carbonyl)]-propionic acid | N1(CCCCC1)C(=O)CCC(=O)O | C9H15NO3
reactant | N,N'-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1(2H)-pyrimidinyl]-4 -fluorophenyl 3-[piperidino(carbonyl)]propionate | N1(CCCCC1)C(=O)CCC(=O)OC1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl | C21H20ClF4N3O5
